US07049318B2
N-(2-Chloro-1-methyl-6-oxo-4-pyridin-4-yl-1,6-dihydro-pyrimidin-5-yl)-benzamide:
To a solution of 5-amino-2-chloro-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one (0.42 mmol) in dichloromethane was added diisopropylethylamine (0.51 mmol) and benzoyl chloride (0.51 mmol). The reaction was stirred overnight at room temperature. The reaction solution was washed with 5% NaHCO3, and the organic layer was purified on silica. M+1=341.

reactant | 5-amino-2-chloro-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one | 0.42 mmol | NC=1C(N(C(=NC1C1=CC=NC=C1)Cl)C)=O | C10H9ClN4O
reactant | diisopropylethylamine | 0.51 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzoyl chloride | 0.51 mmol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-Chloro-1-methyl-6-oxo-4-pyridin-4-yl-1,6-dihydro-pyrimidin-5-yl)-benzamide | ClC=1N(C(C(=C(N1)C1=CC=NC=C1)NC(C1=CC=CC=C1)=O)=O)C | C17H13ClN4O2
